Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Splenic artery aneurysm
 
Major Surgical or Invasive Procedure:
splenic artery angiogram and coiling of splenic artery aneurysm

 
History of Present Illness:
Mr ___ is an ___ with hx RA on prednisone/mtx, prostate ca on
finasteride, HTN/HLD who presents with incidentally found 
splenic
artery aneurysm.  He underwent CT scan 2 weeks ago for abdominal
pain and was found to have diverticulitis for which he has taken
a ___nd at that time was noted to have a 5.4cm
splenic artery aneurysm.  He is asymptomatic from this but
desires to have it treated to prevent possible rupture.  He
denies chest pain, nausea/vomiting, abdominal pain, diarrhea,
constipation, dizziness, fevers/chills. 

 
Past Medical History:
PMH: 
RA, diverticulitis, HLD, HTN, prostate CA

PSH: 
R hip replacement ___
R rotator cuff repair ___ years prior

 
Social History:
___
Family History:
no known family history of visceral artery aneurysm, CAD,
stroke, DM

 
Physical Exam:
Vitals: 24 HR Data (last updated ___ @ 1127)
    Temp: 98.4 (Tm 98.4), BP: 115/66 (108-139/60-84), HR: 63
(49-63), RR: 17 (___), O2 sat: 94% (___), O2 delivery: Ra
GENERAL: [x]NAD  [x]A/O x 3  []intubated/sedated []abnormal
CV: [x]RRR  [] irregularly irregular []no MRG  []Nl S1S2
[]abnormal
PULM: []CTA b/l  [x]no respiratory distress  []abnormal
ABD: [x]soft  [x]Nontender  []appropriately tender 
[x]nondistended  [x]no rebound/guarding  []abnormal
WOUND: R groin puncture site without hematoma or ecchymosis
EXTREMITIES: [x]no CCE []abnormal
PULSES: R: p/p/p/p L: p/p/p/p

 
Pertinent Results:
___ 04:21PM BLOOD WBC-10.2* RBC-4.13* Hgb-12.7* Hct-39.0* 
MCV-94 MCH-30.8 MCHC-32.6 RDW-13.4 RDWSD-45.7 Plt ___
___ 05:50AM BLOOD WBC-8.5 RBC-4.10* Hgb-12.4* Hct-38.6* 
MCV-94 MCH-30.2 MCHC-32.1 RDW-13.3 RDWSD-45.9 Plt ___
___ 06:20AM BLOOD WBC-15.5* RBC-4.21* Hgb-13.0* Hct-39.2* 
MCV-93 MCH-30.9 MCHC-33.2 RDW-13.2 RDWSD-44.7 Plt ___
___ 05:50AM BLOOD ___ PTT-24.5* ___
___ 06:20AM BLOOD Glucose-106* UreaN-18 Creat-0.7 Na-137 
K-4.4 Cl-103 HCO3-24 AnGap-10
___ 04:49PM BLOOD ALT-30 AST-64* AlkPhos-40 TotBili-0.3
___ 06:20AM BLOOD Calcium-9.5 Phos-3.1 Mg-2.1
 
Brief Hospital Course:
Mr. ___ was admitted with a splenic artery aneurysm. He was 
taken promptly for coiling of the aneurysm on ___. For full 
details, please refer to the operative report. After a brief 
stay in PACU, he was transferred to the floor.

He continued to recover well postoperatively. He was observed 
overnight. On postoperative day 1, he was able to ambulate 
independently without issue. He tolerated a regular diet and his 
pain was easily controlled with oral medications. The decision 
was made to discharge the patient home with follow up in clinic 
in 1 month with imaging at that time.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Lovastatin 20 mg oral DAILY 
3. Finasteride 5 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Methotrexate 7.5 mg PO QWED 
6. PredniSONE 2.5 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Fish Oil (Omega 3) 1000 mg PO DAILY 
9. Vitamin D Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Vitamin D 1000 UNIT PO DAILY  
2.  Aspirin 81 mg PO DAILY  
3.  Atenolol 50 mg PO DAILY  
4.  Finasteride 5 mg PO DAILY  
5.  Fish Oil (Omega 3) 1000 mg PO DAILY  
6.  Lovastatin 20 mg oral DAILY  
7.  Methotrexate 7.5 mg PO QWED  
8.  Multivitamins 1 TAB PO DAILY  
9.  PredniSONE 2.5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Splenic Artery Aneurysm 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital after a 
splenic artery angiogram and coiling of your splenic artery 
aneurysm.   To do the test, a small puncture was made in one of 
your arteries.  The puncture site heals on its own: there are no 
stitches to remove.   You tolerated the procedure well and are 
now ready to be discharged from the hospital.   Please follow 
the recommendations below to ensure a speedy and uneventful 
recovery.
Peripheral Angiography
Puncture Site Care
For one week:
•Do not take a tub bath, go swimming or use a Jacuzzi or hot 
tub.
•Use only mild soap and water to gently clean the area around 
the puncture site. 
•Gently pat the puncture site dry after showering. 
•Do not use powders, lotions, or ointments in the area of the 
puncture site. 

You may remove the bandage and shower the day after the 
procedure.  You may leave the bandage off. 
You may have a small bruise around the puncture site.  This is 
normal and will go away one-two weeks. 
Activity 
For the first 48 hours: 
•Do not drive for 48 hours after the procedure
For the first week:
•Do not lift, push , pull or carry anything heavier than 10 
pounds
•Do not do any exercises or activity that causes you to hold 
your breath or bear down with abdominal muscles.   Take care not 
to put strain on your abdominal muscles when coughing, sneezing, 
or moving your bowels.
After one week:
•You may go back to all your regular activities, including 
sexual activity.  We suggest you begin your exercise program at 
half of your usual routine for the first few days.   You may 
then gradually work back to your full routine.
Medications:
Before you leave the hospital, you will be given a list of all 
the medicine you should take at home.  If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!  
For  Problems or Questions:
Call ___ in an emergency such as:
•Sudden, brisk bleeding or swelling at the groin puncture site 
that does not stop after applying pressure for ___ minutes
•Bleeding that is associated with nausea, weakness, or 
fainting.
Call the vascular surgery office (___) right away if 
you have any of the following. (Please note that someone is 
available 24 hours a day, 7 days a week)
•Swelling, bleeding, drainage, or discomfort at the puncture 
site that is new or increasing since discharge from the hospital
•Any change in sensation or temperature in your legs
•Fever of 101 or greater
•Any questions or concerns about recovery from your angiogram 

 
Followup Instructions:
___